US07572809B2
Similar procedure as described in example 273 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3-ethyl-phenylamine give N1-(3-ethyl-phenyl)-6-methoxy-N3-(1H-pyrazol-3-yl)-isoquinoline-1,3-diamine. LC-MS m/e 360(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 3-ethyl-phenylamine | C(C)C=1C=C(C=CC1)N | C8H11N
product | N1-(3-ethyl-phenyl)-6-methoxy-N3-(1H-pyrazol-3-yl)-isoquinoline-1,3-diamine | C(C)C=1C=C(C=CC1)NC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C21H21N5O
